US07863332B2
b. Synthesis of 3-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoic acid
130 mg (3.2 mmol, 5 eq) of sodium hydroxide are added to a solution of 245 mg (0.64 mmol, 1 eq) of methyl 3-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate in 6 ml of a 9/1 tetrahydrofuran/methanol mixture. The reaction mixture is stirred for 2 hours at room temperature. The reaction is stopped by addition of 10 mL of water and 2 mL of acetic acid and then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel (70/30 heptane/ethyl acetate). The oil obtained is crystallized from pentane. 63 mg of solid are obtained (m.p.=100-102° C.). Yield=27%

reactant | sodium hydroxide | 3.2 mmol, 130 mg, 5 eq | [OH-].[Na+]
reactant | methyl 3-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate | 0.64 mmol, 245 mg, 1 eq | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)OC | C23H30N2O3
reactant | tetrahydrofuran methanol | O1CCCC1.CO
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 3-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoic acid | 63 mg, Yield=27% | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)O | C22H28N2O3
